US05684024
A mixture of 3 g (19.8 mmol) of 4-amino-3-methylbenzoic acid in 50 ml of water and 50 ml of ethanol and 3.56 ml of concentrated hydrochloric acid was cooled in an ice bath and then 1.5 g of NaNO2 (21.8 mmol) in 10 ml of water was added portionwise. The mixture was allowed to come to room temperature and then added to a solution of 4.06 g (21.8 mmol) of ethyl 3-acetyl-4-oxopentanoate and 8 ml of pyridine in 25 ml of ethanol. The reaction mixture was left for 24 hr at room temperature with stirring. The mixture was acidified with concentrated hydrochloric acid and the mixture diluted with 20 ml of water. The resulting solid was collected and washed with water and pentane to yield 5.2 g of ethyl 3-(4-carboxy-2-methylphenylhydrazono)-4-oxopentanoate with m.p. 161°-162.5° C.

reactant | 4-amino-3-methylbenzoic acid | 19.8 mmol, 3 g | NC1=C(C=C(C(=O)O)C=C1)C | C8H9NO2
reactant | NaNO2 | 21.8 mmol, 1.5 g | N(=O)[O-].[Na+]
reactant | ethyl 3-acetyl-4-oxopentanoate | 21.8 mmol, 4.06 g | C(C)(=O)C(CC(=O)OCC)C(C)=O | C9H14O4
reactant | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 50 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 3.56 ml | Cl | ClH
solvent | water | 10 ml | O | H2O
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
product | ethyl 3-(4-carboxy-2-methylphenylhydrazono)-4-oxopentanoate | 5.2 g | C(=O)(O)C1=CC(=C(C=C1)NN=C(CC(=O)OCC)C(C)=O)C | C15H18N2O5
